US08980888B2
<Step 1> Synthesis of methyl 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carboxylate
4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.9 g), potassium acetate (1.1 g), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride (0.28 g) were added to a dimethyl sulfoxide (15 ml) solution of methyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate (1.0 g), and the obtained mixture was then stirred in a nitrogen atmosphere at 100° C. for 45 minutes. Thereafter, the reaction solution was subjected to suction filtration using Celite, and was then washed with ethyl acetate (100 ml) and water (50 ml). After that, a saturated sodium hydrogen carbonate aqueous solution (50 ml) was added to the filtrate, and a water layer was separated from an organic layer. The organic layer was successively washed with a saturated ammonium chloride aqueous solution (50 ml) twice, water (100 ml) three times, and a saturated saline (100 ml). The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=90:10-0:100), so as to obtain the title compound (0.30 g) in a yellow amorphous form.

reactant | 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.9 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.1 g | C(C)(=O)[O-].[K+]
reactant | methyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate | 1.0 g | IC=1C=NN(C1C(=O)OC)C | C6H7IN2O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride | 0.28 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | methyl 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carboxylate | 0.30 g | CN1N=CC(=C1C(=O)OC)B1OC(C(O1)(C)C)(C)C | C12H19BN2O4
